US06610717B2
Synthesis of 4-(3-chlorophenyl)-6-(2-cyclohexylethoxymethyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid:
0.25 g (0.51 mmol) of 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-(2-cyclohexylethoxymethyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate, 0.12 g (0.63 mmol) of WSC hydrochloride and 0.13 g (0.62 mmol) of 3,3-diphenylpropylamine were stirred together in 5 ml of dichloromethane at room temperature for 16 hours. 0.1 N hydrochloric acid was added to the reaction mixture. After the extraction with dichloromethane, the organic layer was concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/1) to obtain the title compound.

reactant | 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-(2-cyclohexylethoxymethyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.51 mmol, 0.25 g | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCC#N)C)COCCC1CCCCC1)C(=O)[O-]
reactant | WSC hydrochloride | 0.63 mmol, 0.12 g | CCN=C=NCCCN(C)C.Cl
reactant | 3,3-diphenylpropylamine | 0.62 mmol, 0.13 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | hydrochloric acid | 0.1 N | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-6-(2-cyclohexylethoxymethyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)COCCC1CCCCC1)C)C(=O)O | C38H43ClN2O4
